US08198453B2
To a solution of (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-hydroxypentyl)-2,2-dimethyloxazolidine-3-carboxylate (32 g, 74.2 mmol) and Et3N (22.5 g, 226 mmol) in CH2Cl2 (400 mL) was added a solution of MsCl (10.1 g, 89 mmol) in CH2Cl2 (50 mL) at 0-5° C. After addition, the reaction mixture was allowed to warm to rt and stir for 1 hr. The reaction was washed with water (200 mL) and the aqueous layer was extracted with CH2Cl2 (3×150 mL). The combined organic layers was washed with 10% citric acid (60 mL), sat. NaHCO3 (60 mL) and brine (100 mL), then dried over Na2SO4, filtered and concentrated to give (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-(methylsulfonyloxy)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (37.7 g, 100%), which was used in the next step without purification.

reactant | (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-hydroxypentyl)-2,2-dimethyloxazolidine-3-carboxylate | 74.2 mmol, 32 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CCCO | C22H45NO5Si
reactant | Et3N | 226 mmol, 22.5 g | CCN(CC)CC | C6H15N
reactant | MsCl | 89 mmol, 10.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-(methylsulfonyloxy)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 37.7 g, 100% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CCCOS(=O)(=O)C | C23H47NO7SSi
